US04977262
A solution of 20.7 g of pentachlorobenzyl bromide in 300 ml DMF containing 30 ml of water was heated at reflux for two hours. On dilution with water solids precipitated. The solid was filtered out and washed on the filter until the wash water was free of bromide ions. On drying, 15.2 g of pentachlorobenzyl alcohol of m.p. 193°-195° C. were obtained.

reactant | pentachlorobenzyl bromide | 20.7 g | ClC1=C(C(=C(C(=C1CBr)Cl)Cl)Cl)Cl | C7H2BrCl5
reactant | water | O | H2O
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
product | pentachlorobenzyl alcohol | 15.2 g | ClC1=C(C(=C(C(=C1CO)Cl)Cl)Cl)Cl | C7H3Cl5O
